US03994920
Condense methyl-o-(p-methoxybenzoyl)benzoate (7 g.) and ethylenediamine (8 ml.) by procedure of Example 1 to obtain 9b-p-methoxyphenyl)-1,2,3,9b-tetrahydro-5H-imidazo[2,1-a]isoindol-5-one, m.p. 159° C. (elemental analysis confirms the empirical formula C17H16N2O2), reduce with lithium aluminum hydride, and treat with hydrogen chloride as described in Example 1 to obtain 1,2,3,4,5,6-hexahydro-1-(p-methoxyphenyl)-2,5-benzodiazocine dihydrochloride, m.p. 260° C.

reactant | methyl-o-(p-methoxybenzoyl)benzoate | 7 g | COC(C1=C(C=CC=C1)C(C1=CC=C(C=C1)OC)=O)=O | C16H14O4
reactant | ethylenediamine | 8 ml | C(CN)N | C2H8N2
product | 1,2,3,9b-tetrahydro-5H-imidazo[2,1-a]isoindol-5-one | N1CCN2C1C1=CC=CC=C1C2=O | C10H10N2O
